US08003654B2
17) Synthesis of ethyl-(4-methyl-pyridin-2-ylmethyl)-amine
prepared by reaction of the commercially available 4-methyl-pyridin-2-carbaldehyde with 2M ethylamine in THF.

reactant | 4-methyl-pyridin-2-carbaldehyde | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(4-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC=CC(=C1)C | C9H14N2
